US04456465
In the same way, P-ethyl-2-nitro-5-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenylphosphinic acid is reacted with S-(chloromethyl) 2,2-dimethylpropanothioate to give 2,2-dimethylpropionylthiomethyl P-ethyl-2-nitro-5-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenylphosphinate.

reactant | P-ethyl-2-nitro-5-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenylphosphinic acid | C(C)P(O)(=O)C1=C(C=CC(=C1)OC1=NC=C(C=C1Cl)C(F)(F)F)[N+](=O)[O-] | C14H11ClF3N2O5P
reactant | S-(chloromethyl) 2,2-dimethylpropanothioate | CC(C(SCCl)=O)(C)C | C6H11ClOS
product | 2,2-dimethylpropionylthiomethyl P-ethyl-2-nitro-5-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenylphosphinate | C(C)P(OCSC(C(C)(C)C)=O)(=O)C1=C(C=CC(=C1)OC1=NC=C(C=C1Cl)C(F)(F)F)[N+](=O)[O-] | C20H21ClF3N2O6PS
